US20010027196A1
Following the method of Skulnick and Wierenga (Patent WO 86/04583), a mixture of 8.72 g (43.6 mmol) (RS)-2-fluoro-3-furan-2-yl-3-oxo-propionic acid ethyl ester and 8.89 g (49.3 mmol) guanidine carbonate in 30 ml ethanol was heated at 100° C. for 16 hours. The reaction mixture was then cooled to 0° C. and diluted with 100 ml water. 1M hydrochloric acid was added dropwise until the mixture was ca pH 3, whereupon the resulting crystals were collected by filtration and washed sequentially with water and with ether to afford 6.11 g (72%) 2-amino-5-fluoro-6-furan-2-yl-3H-pyrimidin-4-one as a brown crystalline solid. EI-MS m/e (%): 95 (M+, 100), 154 ([M—MeCN]+, 24).

reactant | (RS)-2-fluoro-3-furan-2-yl-3-oxo-propionic acid ethyl ester | 43.6 mmol, 8.72 g | C(C)OC(C(C(=O)C=1OC=CC1)F)=O | C9H9FO4
reactant | guanidine carbonate | 49.3 mmol, 8.89 g | C(O)(O)=O.NC(=N)N
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 2-amino-5-fluoro-6-furan-2-yl-3H-pyrimidin-4-one | 6.11 g, 72% | NC1=NC(=C(C(N1)=O)F)C=1OC=CC1 | C8H6FN3O2
